US05455258
To a solution of 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-(N,N-dimethylamino) hexanoic acid lithium salt (4.42 g, 10.18 mmol) in methylene chloride (100 mL) containing N-methylmorpholine (6.73 mL, 61.06 mmol), 1-hydroxybenzotriazole monohydrate (1.64 g, 10.687 mmol) and O-t-butylhydroxyl amine hydrochloride (1.41 g, 11.20 mmol) is added N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride (3.90 g, 20.36 mmol) at 0° C. The reaction mixture is allowed to warm to room temperature and stirring is continued overnight. The mixture is diluted with methylene chloride, washed with saturated sodium bicarbonate, then with brine, dried (Na2SO4) and the solvent is evaporated. The crude product is purified by silica gel chromatography (10:1:0.5 ethyl acetate/methanol/ammonium hydroxide) to provide N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-(N,N-dimethylamino) hexanamide.

reactant | 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-(N,N-dimethylamino) hexanoic acid lithium salt | 10.18 mmol, 4.42 g | [Li+].COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)[O-])CCCCN(C)C)CC1=CC=CC=C1
reactant | N-methylmorpholine | 61.06 mmol, 6.73 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole monohydrate | 10.687 mmol, 1.64 g | O.ON1N=NC2=C1C=CC=C2
reactant | O-t-butylhydroxyl amine hydrochloride | 11.20 mmol, 1.41 g | Cl.C(C)(C)(C)ON
reactant | N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride | 20.36 mmol, 3.90 g | Cl.CN(C)CCCN=C=NCC
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-(N,N-dimethylamino) hexanamide | C(C)(C)(C)ONC([C@@H](CCCCN(C)C)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C26H39N3O5S
